### PR TITLE
feat(LinearAlgebra/LinearPMap): add definition of resolvent and resolvent identities

### PR DESCRIPTION
**Pull request by mcdoll**
This PR defines the resolvent of an unbounded operator as a linear map. There are slight differences to the way the resolvent is defined in the literature: we use a purely algebraic description, in particular we do not assume that the operator is closed.

We prove the well-known first and second resolvent identities.

---

- [x] depends on: #42423
- [x] depends on: #42425
- [ ] depends on: #43923

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 1]
```diff
@@ -1004,11 +1030,157 @@ theorem mem_inverse_graph (x : f.domain) : (f x, (x : E)) ∈ (inverse f).graph
...
   have := mem_inverse_graph hf x
   grind [mem_graph_iff]
 
+section bijective
+
+variable (hf2 : LinearMap.range f.toFun = ⊤)
+
+omit hf
+
+/-- The domain of the inverse of `f` is the full space if and only if `f` is bijective. -/
```
Comment (uniwuni) [inline Mathlib/LinearAlgebra/LinearPMap.lean:1047]: shouldn't this be moved out of the section due to the variable?

**Comment by mcdoll** [comment]
I am not sure of the name of `inverse_asLinearMap`, it is annoyingly long, is `inverse_asLM` or `inverseLM` better?

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 2]
```diff
@@ -648,6 +649,20 @@ end LinearMap
 
 namespace LinearPMap
 
+open Classical in
+/-- Composition of a `LinearPMap` with a `LinearMap`.
+
+The composition is well-defined if the range of the `LinearMap` is
+contained in the domain of the `LinearPMap`. -/
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/LinearPMap.lean]:
```suggestion
The composition is well-defined if the range of the `LinearMap` is
contained in the domain of the `LinearPMap`.
Otherwise it takes the junk value `0`. -/
```

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 3]
```diff
@@ -995,6 +1014,15 @@ theorem mem_inverse_graph_snd_eq_zero (x : F × E)
 theorem inverse_graph : (inverse f).graph = f.graph.map (LinearEquiv.prodComm R E F) := by
   rw [inverse, Submodule.toLinearPMap_graph_eq _ (mem_inverse_graph_snd_eq_zero hf)]
 
+theorem graph_eq_inverse_graph_prodComm :
+    f.graph = f.inverse.graph.map (LinearEquiv.prodComm R F E) := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/LinearPMap.lean]: I'll note that much of the naming in this PR  (and in this file more generally I think) is subject to the prefix / infix debate for dot notation. That is, currently most of the dot notation is stated with infix naming.

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 4]
```diff
@@ -1005,11 +1033,161 @@ theorem mem_inverse_graph (x : f.domain) : (f x, (x : E)) ∈ (inverse f).graph
...
+/-- The domain of the inverse of `f` is the full space if and only if `f` is bijective. -/
+theorem inverse_domain_eq_top_iff : f.inverse.domain = ⊤ ↔ LinearMap.range f.toFun = ⊤ := by
+  rw [inverse_domain]
+
+open Classical in
+/-- If `f` is bijective, then the inverse is defined as a linear map. -/
+noncomputable def inverse_asLinearMap (g : E →ₗ.[R] F) : F →ₗ[R] E :=
+  if hg : LinearMap.range g.toFun = ⊤ then g.inverse.toFun.comp (LinearEquiv.ofTop g.inverse.domain
+    ((inverse_domain_eq_top_iff).mpr hg)).symm.toLinearMap
+    else 0
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/LinearPMap.lean]: I'm not yet convinced that we want the junk value approach *everywhere*. In particular, if you're doing this upgrade, I would expect you probably aren't going to be rewriting it much.

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 5]
```diff
@@ -1005,11 +1033,161 @@ theorem mem_inverse_graph (x : f.domain) : (f x, (x : E)) ∈ (inverse f).graph
...
+
+theorem inverse_asLinearMap_eq_if_range_eq_top (hf : LinearMap.range f.toFun = ⊤) :
+  f.inverse_asLinearMap = f.inverse.toFun.comp (LinearEquiv.ofTop f.inverse.domain
+    ((inverse_domain_eq_top_iff).mpr hf)).symm.toLinearMap := by
+  simp [hf, inverse_asLinearMap]
+
+variable (hf : Function.Bijective f)
+include hf
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/LinearPMap.lean]: I think we don't allow blanket `include`s like this. It has to be `in` or provided explicitly.

This also suggests to me we may not want junk values here.

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 6]
```diff
@@ -1005,11 +1033,161 @@ theorem mem_inverse_graph (x : f.domain) : (f x, (x : E)) ∈ (inverse f).graph
...
+
+variable [SMulCommClass R R E]
+
+
+/-- The resolvent set of a `LinearPMap`.
+
+This definition only agrees with the conventional one when `f` is closed, but if that is not
+the case, then the conventional definition yields that `resolvent_set f = ⊤`
+We use this definition for convience and since it makes fewer assumptions. -/
+def resolvent_set (f : E →ₗ.[R] E) : Set R :=
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/LinearPMap.lean]:
```suggestion
def resolventSet (f : E →ₗ.[R] E) : Set R :=
```

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 7]
```diff
@@ -8,6 +8,7 @@ module
 public import Mathlib.Algebra.Field.Basic
 public import Mathlib.Algebra.Module.Torsion.Field
 public import Mathlib.LinearAlgebra.Prod
+public import Mathlib.GroupTheory.GroupAction.Basic
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean:10]:
```suggestion
public import Mathlib.GroupTheory.GroupAction.Basic
public import Mathlib.LinearAlgebra.Prod
```

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 8]
```diff
@@ -1079,17 +1100,173 @@ theorem inverse_graph (hf : f.ker = ⊥) :
...
+section resolvent
+
+variable {f : E →ₗ.[R] E}
+
+variable {r : R}
+
+variable [SMulCommClass R R E]
+
+
+/-- The resolvent set of a `LinearPMap`.
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean]:
```suggestion
/-- The resolvent set of a `LinearPMap`.
```

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 9]
```diff
@@ -736,6 +738,23 @@ end LinearMap
...
 namespace LinearPMap
 
+open Classical in
+/-- Composition of a `LinearPMap` with a `LinearMap`.
+
+The composition is well-defined if the range of the `LinearMap` is
+contained in the domain of the `LinearPMap`.
+Otherwise it takes the junk value `0`. -/
+noncomputable def compLinearMap [Module R F] [Module R G] (f : F →ₗ.[R] G) (g : E →ₗ[R] F) :
+    E →ₗ[R] G :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean:758]: Isn't it weird that this is in the `LinearPMap` namespace but returns a `LinearMap`?

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 10]
```diff
@@ -736,6 +738,23 @@ end LinearMap
...
+  if hgf : LinearMap.range g ≤ f.domain then f.toFun.comp (g.codRestrict f.domain
+    (fun x ↦ hgf (LinearMap.mem_range_self g x))) else 0
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean:760]: `LinearPMap.toFun` is a terrible name...

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 11]
```diff
@@ -1079,17 +1100,173 @@ theorem inverse_graph (hf : f.ker = ⊥) :
     f.inverse.graph = f.graph.map (LinearEquiv.prodComm R E F : (E × F) →ₗ[R] (F × E)) := by
   rw [inverse, Submodule.toLinearPMap_graph_eq _ (mem_inverse_graph_snd_eq_zero hf)]
 
+theorem graph_eq_map_graph_inverse (hf : f.ker = ⊥) :
+    f.graph = f.inverse.graph.map (LinearEquiv.prodComm R F E : (F × E) →ₗ[R] (E × F)) := by
+  rw [inverse_graph hf]
+  ext x
+  simp
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean:1117]: I would have expected this proof to be of the form
```suggestion
    f.graph = f.inverse.graph.map (LinearEquiv.prodComm R F E : (F × E) →ₗ[R] (E × F)) := by
  simp [inverse_graph hf]
```
or
```suggestion
    f.graph = f.inverse.graph.map (LinearEquiv.prodComm R F E : (F × E) →ₗ[R] (E × F)) := by
  simp [inverse_graph hf, map_map]
```
Why does this not work? What lemmas/annotations are we missing?

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 12]
```diff
@@ -1079,17 +1100,173 @@ theorem inverse_graph (hf : f.ker = ⊥) :
...
 theorem inverse_range (hf : f.ker = ⊥) : f.inverse.toFun.range = f.domain := by
   rw [← LinearPMap.graph_map_snd_eq_range, inverse_graph hf, ← Submodule.map_comp]
   exact f.graph_map_fst_eq_domain
 
+@[grind .]
 theorem mem_inverse_graph (hf : f.ker = ⊥) (x : f.domain) : (f x, (x : E)) ∈ f.inverse.graph := by
   simp [inverse_graph hf]
 
+theorem mem_graph_of_inverse (hf : f.ker = ⊥) (y : f.inverse.domain) :
+    (f.inverse y, (y : F)) ∈ f.graph := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean]:
```suggestion
theorem mk_inverse_mem_graph (hf : f.ker = ⊥) (y : f.inverse.domain) :
    (f.inverse y, (y : F)) ∈ f.graph := by
```
feels more appropriate

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 13]
```diff
@@ -1079,17 +1100,173 @@ theorem inverse_graph (hf : f.ker = ⊥) :
...
 theorem inverse_apply_eq (hf : f.ker = ⊥) {y : f.inverse.domain} {x : f.domain} (hxy : f x = y) :
     f.inverse y = x := by
   grind [mem_inverse_graph]
 
+end injective
+
+section bijective
+
+theorem inverse_domain_eq_top_of_bijective (hf : Function.Bijective f) :
+    f.inverse.domain = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean]: `domain` is further out, so it should come first in the name
```suggestion
theorem domain_inverse_eq_top_of_bijective (hf : Function.Bijective f) :
    f.inverse.domain = ⊤ := by
```

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 14]
```diff
@@ -1079,17 +1100,173 @@ theorem inverse_graph (hf : f.ker = ⊥) :
...
+  exact hf.2
+
+theorem mem_inverse_domain_of_bijective (hf : Function.Bijective f) (y : F) :
+    y ∈ f.inverse.domain := by
+  rw [inverse_domain_eq_top_of_bijective hf]
+  exact Submodule.mem_top
+
+open Classical in
+/-- If `f` is bijective, then the inverse is defined as a linear map. -/
+noncomputable def inverseLM (hf : Function.Bijective f) : F →ₗ[R] E :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean]: Don't you just need surjectivity?

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 15]
```diff
@@ -1079,17 +1100,173 @@ theorem inverse_graph (hf : f.ker = ⊥) :
...
+  f.inverse.toFun.comp (LinearEquiv.ofTop f.inverse.domain
+    (inverse_domain_eq_top_of_bijective hf)).symm.toLinearMap
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearPMap.lean]: Do we not have `LinearPMap.toLinearMap` or something like that, that would turn a partial linear map with full domain to a linear map?

**Review by YaelDillies — COMMENTED** [review]
Silly question: why define the resolvent over `LinearPMap`, and not the more basic `LinearMap`?

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 11 above)
Comment (mcdoll) [reply Mathlib/LinearAlgebra/LinearPMap.lean:1117]: `map_map` is not a thing - it is called `Submodule.map_comp` (and goes the other direction - arguably worse than having `map_map`). The missing ingredient is that `(LinearEquiv.prodComm R E F ≪≫ₗ LinearEquiv.prodComm R F E) = Equiv.refl`.

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 10 above)
Comment (mcdoll) [reply Mathlib/LinearAlgebra/LinearPMap.lean:760]: Yeah, but not in scope for this PR

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 14 above)
Comment (mcdoll) [reply Mathlib/LinearAlgebra/LinearPMap.lean]: I changed it. Morally you do, because `inverse` has a junk value if the function is not injective. So I find this change a bit misleading tbh

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 9 above)
Comment (mcdoll) [reply Mathlib/LinearAlgebra/LinearPMap.lean:758]: no, why? the main object is the `LinearPMap`

**Comment by mcdoll** [comment]
If you define the resolvent for `LinearMap` and use that for `LinearPMap`, then you map to the domain, which is not what we want, so we would need a second definition anyway. For `LinearMap` there is already [resolvent](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Spectrum/Basic.html#resolvent), which can't be used here (it might be possible to jump through hoops to make it work, but I am not sure whether that is worth the effort).

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearPMap.lean:1117]: Can you then add this as a simp lemma so that this works?
```suggestion
    f.graph = f.inverse.graph.map (LinearEquiv.prodComm R F E : (F × E) →ₗ[R] (E × F)) := by
  simp [inverse_graph hf, \l map_comp]
```

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearPMap.lean]: Is the value junk mathematically? I would say it's non-canonical but not junk? My reasoning is that you can pass to a smaller partial map which is bijective, and invert that. The smaller partial map is obtained by Zorn, so non-canonical, but not junk.

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 11 above)
Comment (mcdoll) [reply Mathlib/LinearAlgebra/LinearPMap.lean:1117]: #43923

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearPMap.lean:758]: I would have thought so too, but then I would have expected the return type to be `LinearPMap`, making it effectively equivalent to `LinearPMap.comp f (LinearMap.toLinearPMap g)` (not sure what the name of `LinearMap.toLinearPMap` actually is), but this operation is different and has a weird junk value (even if the range of `g` doesn't lie in the domain of `f`, you can return a linear map sending `x` to `f (g x)` whenever `g x` is in the domain of `f`, eg by Zorn)

**Comment by YaelDillies** [comment]
Can you then relate the resolvent of a linear map (in the C^*-algebra sense) to its resolvent considered as a partial linear map? and the resolvent of a partial linear map to its resolvent as a linear map from its domain (in the C^*-algebra sense)?
